US04404230
Methyl-2-chloro-6-nitro-benzoate
18.9 gm (86 mmols) of 2-chloro-6-nitro-benzoic acid chloride were added dropwise over a period of 10 minutes to 100 ml of methanol. The reaction mixture was refluxed for 4 hours and then evaporated in vacuo. The residue was treated with a little ice-cold methanol and filtered off.

reactant | 2-chloro-6-nitro-benzoic acid chloride | 86 mmols, 18.9 gm | ClC1=C(C(=O)Cl)C(=CC=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | methanol | CO | CH4O
product | Methyl-2-chloro-6-nitro-benzoate | COC(C1=C(C=CC=C1[N+](=O)[O-])Cl)=O | C8H6ClNO4
